US07601711B2
[2-(4,4-Difluoro-piperidine-1-carbonyl)-1H-indol-5-yl]-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound was synthesized in analogy to example 1, from 5-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-indole-2-carboxylic acid hydrochloride, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (commercially available), 4,4-difluoropiperidine (commercially available) and N,N-diisopropylethylamine in N,N-dimethylformamide, to give the desired product as a colorless solid (74%).

reactant | 5-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-indole-2-carboxylic acid hydrochloride | Cl.N1(CCCC1)C[C@@H]1N(CCC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)O
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4,4-difluoropiperidine | FC1(CCNCC1)F | C5H9F2N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [2-(4,4-Difluoro-piperidine-1-carbonyl)-1H-indol-5-yl]-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 74% | FC1(CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1[C@H](CCC1)CN1CCCC1)F | C24H30F2N4O2
